US08383305B2
Synthesis of [4-methoxy benzil diethylphosphonate]
156.6 parts of 4-methoxy benzil chloride and 332.0 parts of triethyl phosphite are reacted at 150° C. for 5 hours.

reactant | 4-methoxy benzil chloride | [Cl-].COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | 4-methoxy benzil diethylphosphonate | C(C)OP(OCC)=O.COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | InChI=1S/C15H12O3.C4H11O3P/c1-18-13-9-7-12(8-10-13)15(17)14(16)11-5-3-2-4-6-11;1-3-6-8(5)7-4-2/h2-10H,1H3;8H,3-4H2,1-2H3
